US06670480B2
2-Chloro-5-vinylpyridine
To a cooled 5° C., stirred slurry of methyltriphenylphosphonium bromide (75.7 grams) in tetrahydrofuran (530 mL) was added potassium t-butoxide (23.8 grams) portionwise over a 5 minute period to produce a yellow slurry. After 30 minutes, 2-chloro-5-formylpyridine (25.0 grams) was added in one portion to produce a purple colored slurry. After an additional 30 minutes, the reaction mixture was treated with saturated aqueous ammonium chloride (200 mL) and a majority of the tetrahydrofuran was removed in vacuo. The resulting mixture was washed with ethyl acetate, the combined organic layers washed with saturated aqueous brine, stirred over activated charcoal for 20 minutes, dried over anhydrous sodium sulfate and concentrated in vacuo. The resulting semi-solid was stirred for 30 minutes with a solution of 2:1 diethyl ether/petroleum ether (375 mL), filtered and the solids washed with an additional portion of 2:1 diethyl ether/petroleum ether (300 mL). The combined filtrates were concentrated in vacuo, pre-loaded on 60 grams of silica gel and chromatographed over 700 grams of silica gel eluting with a gradient of ethyl acetate(0-8%)/hexanes to afford the title compound as a colorless oil, 15.2 grams 1H NMR (400 MHz, CDCl3): δ=8.35 (s, 1H); 7.69(d, 1H); 6.65 (dd, 1H); 5.79 (d, 1H); 5.40 (d, 1H).

reactant | potassium t-butoxide | 23.8 grams | CC(C)([O-])C.[K+]
reactant | 2-chloro-5-formylpyridine | 25.0 grams | ClC1=NC=C(C=C1)C=O | C6H4ClNO
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
catalyst | methyltriphenylphosphonium bromide | 75.7 grams | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 530 mL | O1CCCC1 | C4H8O
product | 2-Chloro-5-vinylpyridine | ClC1=NC=C(C=C1)C=C | C7H6ClN
